US08222413B2
A 1-L, 4-neck round bottom flask was equipped with a heating mantle, an overhead stirrer, condenser, nitrogen inlet, and thermocouple. The flask was charged with 5-chloro-2-nitroaniline (150 g, 869 mmol, 1 equiv), 1-methylpiperazine (348 mL, 386 g, 3.48 mol, 4 equiv) and 4M aqueous NaCl (247 mL). The contents of the flask were stirred and purged with N2 for at least 15 min. The reactor was then heated until an internal temperature of 110-112° C. was reached. The contents were stirred for 7-8 h until the reaction was complete as determined by HPLC. After completion, the reaction mixture was cooled to 20° C. over 2 h to precipitate the product as a slurry, and stirring was continued for an additional 16 h. The solid was vacuum filtered, and the mother liquor collected in the original reaction vessel. The solids were washed on the filter with H2O (2×250 mL), followed by soaking in heptane (200 mL) for 0.5 h. The slurry was again filtered via vacuum, and dried in vacuo (50° C., 30 in. Hg) to yield 5-(4-methyl-piperazin-1-yl)-2-nitroaniline (197.8 g, 96.3% yield). Residual N-methylpiperazine was not detected by 1H NMR.

reactant | 5-chloro-2-nitroaniline | 869 mmol, 150 g, 1 equiv | ClC=1C=CC(=C(N)C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | 1-methylpiperazine | 3.48 mol, 348 mL, 386 g, 4 equiv | CN1CCNCC1 | C5H12N2
reactant | NaCl | 4M, 247 mL | [Na+].[Cl-]
product | 5-(4-methyl-piperazin-1-yl)-2-nitroaniline | 197.8 g, 96.3% yield | CN1CCN(CC1)C=1C=CC(=C(N)C1)[N+](=O)[O-] | C11H16N4O2
